US08124783B2
Preparation of 1-benzyl-4-[(5,6-dimethoxy-1-indanon-2-yl)methyl]piperidine (1)
4-[(5,6-Dimethoxy-1-indanon-2-yl)methyl]piperidine (4 g) was taken in acetone (60 ml). To which benzyl chloride (1.92 g), potassium carbonate (2.28 g) and a catalytic quantity of tetrabutylammonium iodide (TBAI) were added. The reaction mixture was heated at 60° C. and reaction was monitored on TLC. Solvent was removed by distillation after reaction completion and the residue was taken in water and extracted with ethyl acetate (100 ml). The organic extract was acidified with cone. HCl. The solvent was evaporated under vacuum to yield the salt as a residue. Yield: 5.14 g.

reactant | 4-[(5,6-Dimethoxy-1-indanon-2-yl)methyl]piperidine | 4 g | COC=1C=C2CC(C(C2=CC1OC)=O)CC1CCNCC1 | C17H23NO3
reactant | benzyl chloride | 1.92 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 2.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-benzyl-4-[(5,6-dimethoxy-1-indanon-2-yl)methyl]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)CC1C(C2=CC(=C(C=C2C1)OC)OC)=O | C24H29NO3
